US08217027B2
To (1R,3R)-methyl 1-amino-3-(4-bromophenyl)cyclopentanecarboxylate (1.5 g, 5.03 mmol) in acetonitrile (7.2 ml) and water (1.800 ml) was added N-(Benzyloxycarbonyloxy)succinimide (1.254 g, 5.03 mmol) followed by potassium carbonate (0.695 g, 5.03 mmol). The reaction mixture was stirred for 1 hour at room temperature. The solvent was removed and the remaining aqueous slurry was taken up in water and ethyl acetate. The organic layer was removed and washed with brine, dried over MgSO4 and concentrated in vacuo. The crude was purified by flash chromatography to yield (1R,3R)-methyl 1-(benzyloxycarbonylamino)-3-(4-bromophenyl)cyclopentanecarboxylate (1.4 g, 3.24 mmol, 64.4% yield) as an off white gum.

reactant | (1R,3R)-methyl 1-amino-3-(4-bromophenyl)cyclopentanecarboxylate | 5.03 mmol, 1.5 g | N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)Br)C(=O)OC | C13H16BrNO2
reactant | N-(Benzyloxycarbonyloxy)succinimide | 5.03 mmol, 1.254 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | potassium carbonate | 5.03 mmol, 0.695 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 7.2 ml | C(C)#N | C2H3N
solvent | water | 1.800 ml | O | H2O
product | (1R,3R)-methyl 1-(benzyloxycarbonylamino)-3-(4-bromophenyl)cyclopentanecarboxylate | 3.24 mmol, 1.4 g, 64.4% yield | C(C1=CC=CC=C1)OC(=O)N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)Br)C(=O)OC | C21H22BrNO4
